### PR TITLE
[Merged by Bors] - feat: add `Finset.card_le_one_iff_subsingleton` and `Finset.one_lt_card_iff_nontrivial`

### PR DESCRIPTION
**Pull request by ocfnash**
The versions for `Fintype` already exist but are missing for `Finset`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Card.lean [hunk 1]
```diff
@@ -539,6 +539,10 @@ theorem card_le_one_iff : s.card ≤ 1 ↔ ∀ {a b}, a ∈ s → b ∈ s → a
   tauto
 #align finset.card_le_one_iff Finset.card_le_one_iff
 
+theorem card_le_one_iff_subsingleton : s.card ≤ 1 ↔ Subsingleton s := by
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Card.lean:542]: Isn't this the same as `card_le_one` above? Can we remove that lemma and use this one instead?

Comment (eric-wieser) [reply Mathlib/Data/Finset/Card.lean:542]: Oh, there's a coercion on the RHS! In that case, perhaps
```suggestion
theorem card_le_one_iff_subsingleton_coeSort : s.card ≤ 1 ↔ Subsingleton s := by
```

Comment (eric-wieser) [reply Mathlib/Data/Finset/Card.lean:542]: Then I think a better name might be:
```suggestion
theorem card_le_one_iff_subsingleton_coe : s.card ≤ 1 ↔ Subsingleton s := by
```
or
```suggestion
theorem card_le_one_iff_subsingleton_coeSort : s.card ≤ 1 ↔ Subsingleton s := by
```
(I don't know if either or both have precedent)

Comment (ocfnash) [reply Mathlib/Data/Finset/Card.lean]: OK I've added [a commit](https://github.com/leanprover-community/mathlib4/pull/7131/commits/9ce8a35d1f049e38360daabcd75bfe3a8a327c6a) along these lines.

File: Mathlib/Data/Finset/Card.lean [hunk 2]
```diff
@@ -539,6 +539,10 @@ theorem card_le_one_iff : s.card ≤ 1 ↔ ∀ {a b}, a ∈ s → b ∈ s → a
   tauto
 #align finset.card_le_one_iff Finset.card_le_one_iff
 
+theorem card_le_one_iff_subsingleton_coe : s.card ≤ 1 ↔ Subsingleton (s : Type _) := by
+  rw [card_le_one_iff, subsingleton_iff]
+  aesop
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Card.lean:544]: a small golf:
```suggestion
theorem card_le_one_iff_subsingleton_coe : s.card ≤ 1 ↔ Subsingleton (s : Type _) :=
  card_le_one.trans (s : Set α).subsingleton_coe.symm
```
which also makes it easier to find the corresponding `Set` lemma.

File: Mathlib/Data/Fintype/Card.lean [hunk 3]
```diff
@@ -576,10 +576,8 @@ theorem card_le_one_iff_subsingleton : card α ≤ 1 ↔ Subsingleton α :=
 #align fintype.card_le_one_iff_subsingleton Fintype.card_le_one_iff_subsingleton
 
 theorem one_lt_card_iff_nontrivial : 1 < card α ↔ Nontrivial α := by
-  classical
-    rw [← not_iff_not]
-    push_neg
-    rw [not_nontrivial_iff_subsingleton, card_le_one_iff_subsingleton]
+  rw [← Finset.card_univ, Finset.one_lt_card_iff_nontrivial_coe, nontrivial_iff, nontrivial_iff]
+  aesop
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/Card.lean:580]: `aesop` is overkill here:
```suggestion
  rw [← not_iff_not, not_lt, not_nontrivial_iff_subsingleton, card_le_one_iff_subsingleton]
```

**Comment by eric-wieser** [comment]
bors d+

Thanks!

**Comment by ocfnash** [comment]
bors merge
